US07772231B2
2-benzyl-5-chlorobenzo(d)thiazole
A round bottom flask fitted with a Dean-Stark trap was charged with 4-Chloro-2-aminobenzenethiol (3.47 g, 21.7 mmol) and phenacyl chloride (3.0 mL, 22.7 mmol) in benzene (40 mL), and the mixture heated 18 h in an 80° C. oil bath. The reaction mixture was diluted with CH2Cl2, and the organics washed sequentially with aqueous Na2CO3, brine, then dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel chromatography eluting with 35-100% CH2Cl2/hexanes to provide the title compound as a white solid (1.94 g).

reactant | 4-Chloro-2-aminobenzenethiol | 21.7 mmol, 3.47 g | ClC1=CC(=C(C=C1)S)N | C6H6ClNS
reactant | phenacyl chloride | 22.7 mmol, 3.0 mL | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-benzyl-5-chlorobenzo(d)thiazole | 1.94 g | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)Cl | C14H10ClNS
